US03959322
Monohydrogenate dl-3-methoxy-6-methyl-17,17-ethylenedioxy-13-ethylgona-1,3,5(10),8,14-pentaene (15.3 g) in benzene (300 cc) in the presence of 2% Pd/CaCO3 (5.0 g). Filter, remove the benzene under reduced pressure and recrystallize from 95% ethanol (110 cc) to yield the dl-3-methoxy-6-methyl-17,17-ethylenedioxy-13-ethylgona-1,3,5(10),8-tetraene (11.0 g), m.p. 122°-124°, diamond shaped plates, λ max. EtOH 280 mμ (ε15,140).

reactant | 3-methoxy-6-methyl-17,17-ethylenedioxy-13-ethylgona-1,3,5(10),8,14-pentaene | 15.3 g | COC1=CC=2C(CC3=C(CC[C@@]4(C5(CC=C34)OCCO5)CC)C2C=C1)C | C23H28O3
solvent | benzene | 300 cc | C1=CC=CC=C1 | C6H6
catalyst | Pd CaCO3 | 5.0 g | [Pd].C(=O)([O-])[O-].[Ca+2]
product | 3-methoxy-6-methyl-17,17-ethylenedioxy-13-ethylgona-1,3,5(10),8-tetraene | 11.0 g | COC1=CC=2C(CC3=C(CC[C@@]4(C5(CC[C@@H]34)OCCO5)CC)C2C=C1)C | C23H30O3
